US07834000B2
3-(Piperidin-4-yl)quinolin-2(1H)-one
A solution of 3-(1-Benzyl-1,2,3,6-tetrahydropyridin-4-yl)quinolin-2(1H)-one (0.25 g. 0.29 mmol) and 10% Pd/C (130 mg) in MeOH (20 ml) was stirred at 40° C. for 6 hours. The catalysis was filtered and solvent evaporated affording the desired product. LC/MS (10% to 99%): M/Z (M+H)+ (obs)=229; tR=1.27.

reactant | 3-(1-Benzyl-1,2,3,6-tetrahydropyridin-4-yl)quinolin-2(1H)-one | 0.29 mmol, 0.25 g | C(C1=CC=CC=C1)N1CCC(=CC1)C=1C(NC2=CC=CC=C2C1)=O | C21H20N2O
solvent | MeOH | 20 ml | CO | CH4O
catalyst | Pd/C | 130 mg | [Pd] | Pd
product | 3-(Piperidin-4-yl)quinolin-2(1H)-one | N1CCC(CC1)C=1C(NC2=CC=CC=C2C1)=O | C14H16N2O
